US07825128B2
2) (R)-2-(2-chloro-5-iodopyrimidine-4-ylamino)propan-1-ol
In the reaction of 2,4-dichloro-5-iodopyrimidine (3.0 g, 10.9 mmol) with (R)-2-amino-1-propanol (884 mg, 11.8 mmol) according to procedure 2, the desired product is obtained in 88% yield (1.6 g) after chromatographic purification (silica gel, dichloromethane/methanol (0% to 20% methanol)).

reactant | 2,4-dichloro-5-iodopyrimidine | 10.9 mmol, 3.0 g | ClC1=NC=C(C(=N1)Cl)I | C4HCl2IN2
reactant | (R)-2-amino-1-propanol | 11.8 mmol, 884 mg | N[C@@H](CO)C | C3H9NO
product | (R)-2-(2-chloro-5-iodopyrimidine-4-ylamino)propan-1-ol | 88% yield | ClC1=NC=C(C(=N1)N[C@@H](CO)C)I | C7H9ClIN3O
